US07655284B2
To a solution of 3 g of 4,4′-biphenol and 18 g of K2CO3 in methylethylketone (MEK), 0.02 g of Kl was put, and 6.9 g of 6-bromo-1-hexanol was slowly added dropwise thereto for reaction at 80° C. for 24 hours. 100 ml of distilled water was added thereto to complete the reaction, the mixture was cooled to normal temperature, and a 10% aqueous HCl solution was added thereto. The obtained precipitants were filtered to obtain 3.8 g of 4,4′-(di(6-hydroxyhexyl)oxy))biphenyl. (Yield: 50%)

reactant | 4,4′-biphenol | 3 g | C1(=CC=C(C=C1)C1=CC=C(C=C1)O)O | C12H10O2
reactant | K2CO3 | 18 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 6-bromo-1-hexanol | 6.9 g | BrCCCCCCO | C6H13BrO
reactant | HCl | Cl | ClH
solvent | methylethylketone | CC(=O)CC | C4H8O
solvent | water | 100 ml | O | H2O
product | biphenyl | Yield: 50% | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
